data/pmechdb/original/mc_train_fold0/raw/train.txt
C[C:20](C(=[N+]=[N-])P(=O)(OC)OC)([O-:10])[O:21]C>>C[C:20](=[O:10])C(=[N+]=[N-])P(=O)(OC)OC.C[O-:21] 10=20;20,21=21
[H:20][O:21][PH+:22](OC)OC.C[OH:10]>>[H:20][OH+:10]C.CO[PH:22](=[O:21])OC 10=20;20,21=21,22
[Li:11][CH2:10]CCC.CCCC[Sn:20](CCCC)(CCCC)C(OCC)OCC>>CCCC[Sn-:20](CCCC)(CCCC)([CH2:10]CCC)C(OCC)OCC.[Li+:11] 10,11=10,20
CC[C+:20](C)C.C1=CC=C[CH:10]=[CH:11]1>>CC[C:20](C)(C)[CH:10]1C=CC=C[CH+:11]1 10,11=10,20
CC(CCC1CCCC1)[OH:10].[O:21]=[S:20](Cl)Cl>>CC(CCC1CCCC1)[OH+:10][S:20]([O-:21])(Cl)Cl 10=20;20,21=21
CC(=O)[NH2:10].CO[P:20](=[O:21])(SC)Cl>>CC(=O)[NH2+:10][P:20]([O-:21])(OC)(SC)Cl 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C#C)C(=C)C2=CC=CC=C2.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C=C(C1=CC=CC=C1)[C:21]2=[CH:22][CH:23]=[C:24](C=C2)C#C 10=20;20,21=21,22;22,23=23,24
[H:20][O:21]C.CC(=O)[O-:10].CC(=O)[N+]1=CC=C(C=C1)N(C)C>>[H:20][O:10]C(=O)C.C[O-:21].CC(=O)[N+]1=CC=C(C=C1)N(C)C 10=20;20,21=21
[H:20][C:21]12CNCCC1=CC=C([CH+:22]2)OC.[OH2:10].CO.[Cl-]>>[H:20][OH2+:10].COC1=CC=C2CCNC[C:21]2=[CH:22]1.CO.[Cl-] 10=20;20,21=21,22
C1=CC2=CC=CC(=C2C=C1)N[C:20](CCl)([O-:10])[Cl:21].CC[NH+](CC)CC>>C1=CC2=CC=CC(=C2C=C1)N[C:20](=[O:10])CCl.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
C1=CC=C(C=C1)C2(C3=CC=CC=C3OC2=[O:10])C[CH2:20][Br:21].CO>>C1[CH2:20][O+:10]=C2C1(C3=CC=CC=C3O2)C4=CC=CC=C4.[Br-:21].CO 10=20;20,21=21
CC[OH:10].CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)O>>CC[OH+:10][I:20]1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)OC(=O)C.CC(=O)O 10=20,
[H:20][CH2:21][C:22](=[O:23])N(CC)CC.[OH-:10]>>[H:20][OH:10].CCN(CC)[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21](C)([C:22](=[O:23])Cl)Cl.CC[N:10](CC)CC.CC(=O)OC=C1C=CC=C1>>[H:20][N+:10](CC)(CC)CC.C[C:21](=[C:22]([O-:23])Cl)Cl.CC(=O)OC=C1C=CC=C1 10=20;22,23=23;20,21=21,22
[B-]([O+]=C1CCC[C:11]([CH2:10]C(=C)[CH-]1)(C)[C+:20](C)C)(Cl)(Cl)Cl>>[B-]([O+]=C1CCC[C+:11]([C:20]([CH2:10]C(=C)[CH-]1)(C)C)C)(Cl)(Cl)Cl 10,11=10,20
CC1COP(=[O:10])(O1)C=C([C:20]2(C([S+:21]2C3=CC=CC=C3)(C)C)C)Cl.[Cl-]>>CC1COP2(=[O+:10][C:20](C(=C2)Cl)(C)C(C)(C)[S:21]C3=CC=CC=C3)O1.[Cl-] 10=20;20,21=21
CCO[P:10](C)(C)(C)[I:11]>>CCO[P+:10](C)(C)C.[I-:11] 10,11=11
CCOC(=O)C[C:20](=[O:21])C.C[NH2:10]>>CCOC(=O)C[C:20](C)([NH2+:10]C)[O-:21] 10=20;20,21=21
C[C:20](=[O+:21]CC[OH:10])C1=CC(=CC=C1)C#N.[B-](O)(F)(F)F.CCOCC.C(CO)O>>C[C:20]1([OH+:10]CC[O:21]1)C2=CC(=CC=C2)C#N.[B-](O)(F)(F)F.CCOCC.C(CO)O 10=20;20,21=21
COC1=C(C=C(C=C1)CC[N+]2(CC2)[C:20]3(CCC[C:11](=[CH:10]3)[O-:12])[Br:21])OC>>COC1=C(C=C(C=C1)CC[N+]2(CC2)[C:20]3=[CH:10][C:11](=[O:12])CCC3)OC.[Br-:21] 10,11=10,20;20,21=21;12=11
CCC1C[CH:20]2C([S+:21]2C)CC1CCC3=CC=CC=C3.[NH3:10].[B-](F)(F)(F)F.CSC>>CCC1C[CH:20](C(CC1CCC2=CC=CC=C2)[S:21]C)[NH3+:10].[B-](F)(F)(F)F.CSC 10=20;20,21=21
C[C:20]([NH+:21](C)C)([OH:10])OC.[Cl-]>>C[C:20](=[OH+:10])OC.C[NH:21]C.[Cl-] 10=20;20,21=21
[H:20][O+:21]1CCCC1C(C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C1CCC[O:21]1)O 10=20;20,21=21
C[CH+:20]C.[CH:11]1=[CH:10]OC=C1C(F)(F)F>>C[CH:20](C)[CH:10]1[CH+:11]C(=CO1)C(F)(F)F 10,11=10,20
[H:20][O:21]S(=O)(=O)O.CCNC[CH:10]=[CH:11][OH:12]>>[H:20][CH:10](CNCC)[CH:11]=[OH+:12].OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][CH:21]1CCCC([CH:22]1[Br:23])C.[OH-:10]>>[H:20][OH:10].CC1CCC[CH:21]=[CH:22]1.[Br-:23] 10=20;22,23=23;20,21=21,22
C[Si](C)(C)C[CH:11]=[CH2:10].C1C2[CH:20]=[N+:21](C(=O)N2C(S1)C3=CC=CC=C3)CC4=CC=CC=C4>>C[Si](C)(C)C[CH+:11][CH2:10][CH:20]1C2CSC(N2C(=O)[N:21]1CC3=CC=CC=C3)C4=CC=CC=C4 10,11=10,20;20,21=21
CCC(C)O[C:20](=[O:21])C.[OH-:10]>>CCC(C)O[C:20](C)([OH:10])[O-:21] 10=20;20,21=21
[H:20][CH:21]1CC2(C3CCC4=COC=C4C3(CCC2C([C:22]1=[O+:23][Li-][N:10](C(C)C)C(C)C)(C)CO[Si](C)(C)C(C)(C)C)C)C>>[H:20][N+:10]([Li-][O:23][C:22]1=[CH:21]CC2(C3CCC4=COC=C4C3(CCC2C1(C)CO[Si](C)(C)C(C)(C)C)C)C)(C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
C[CH:20]=[OH+:21].C[NH2:10]>>C[CH:20]([NH2+:10]C)[OH:21] 10=20;20,21=21
[H:20][Cl:21].C[C:11]1=[CH:10]CCC1(C)C>>[H:20][CH:10]1CCC([C+:11]1C)(C)C.[Cl-:21] 10,11=10,20;20,21=21
C[N:12]1[CH:11]2[CH:10](NCC[C+:20]2C3=CC=CC=C31)CC4=CC=C(C(=C4)O)O.[Cl-]>>C[N+:12]1=[CH:11][C:20]2(CCN[CH:10]2CC3=CC=C(C(=C3)O)O)C4=CC=CC=C41.[Cl-] 10,11=10,20;12=11
[H:20][OH2+:21].CC(C)(O)[S:10]CCS>>[H:20][S+:10](CCS)C(C)(C)O.[OH2:21] 10=20;20,21=21
CC(C)C1CC(C2=N[N+](=[C-:10]N12)C3=C(C(=C(C(=C3F)F)F)F)F)F.C1=CC2=CC=C(N=C2C=C1)[CH:20]=[O:21].[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C.CCOC(=O)C(=O)C=CC1=CC=CC=C1>>CC(C)C1CC(C2=N[N+](=[C:10](N12)[CH:20](C3=CC=C4C=CC=CC4=N3)[O-:21])C5=C(C(=C(C(=C5F)F)F)F)F)F.[B-](F)(F)(F)F.CC[NH+](C(C)C)C(C)C.CCOC(=O)C(=O)C=CC1=CC=CC=C1 10=20;20,21=21
C1=CC=C([CH:11]=[CH:10]1)[N+](=O)[O-].O[S+:20](=O)=O>>C1=C[CH:10]([CH+:11]C(=C1)[N+](=O)[O-])[S:20](=O)(=O)O 10,11=10,20
[H:20][CH2:21][S+](C)OCC1=CC=CC=C1.C(=O)(O)[O-:10].[Br-]>>[H:20][O:10]C(=O)O.C[S+]([CH2-:21])OCC1=CC=CC=C1.[Br-] 10=20;20,21=21
